US05359098
6-[5-(Dimethylamino)pentoxy]-2-phenyl-4H-1-benzopyran-4-one
The compound was prepared by the method of Example 3 from 6-hydroxyflavone, 1-bromo-5-chloropentane, and dimethylamine: mp 82°-83° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-5-chloropentane | BrCCCCCCl | C5H10BrCl
reactant | dimethylamine | CNC | C2H7N
product | 6-[5-(Dimethylamino)pentoxy]-2-phenyl-4H-1-benzopyran-4-one | CN(CCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1)C | C22H25NO3
